US05712267
(2S,4S)-4-Mercapto-2[(3S)-1-(N-4-nitrobenzyloxycarbonylacetimidoyl)pyrrolidin-3-ylaminocarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparations 23(iii) and 23(iv), but using 1.08 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-pyrrolidin-3-ylaminocarbonyl)pyrrolidine hydrochloride and 440 mg of N-(4-nitrobenzyloxycarbonyl)acetamidine, 608 mg of the title compound were obtained as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-pyrrolidin-3-ylaminocarbonyl)pyrrolidine hydrochloride | 1.08 g | Cl.COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N[C@@H]2CNCC2)C=C1
reactant | N-(4-nitrobenzyloxycarbonyl)acetamidine | 440 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C)=N)C=C1 | C10H11N3O4
product | (2S,4S)-4-Mercapto-2[(3S)-1-(N-4-nitrobenzyloxycarbonylacetimidoyl)pyrrolidin-3-ylaminocarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 608 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N[C@@H]1CN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H30N6O9S
